US06900215B2
A mixture of 3-(3-bromo-2,6-difluorophenyl)pyridine (2.97 g, 11 mmol), potassium acetate (2.16 g, 22 mmol) and bis(neopentyl glycolato)diboron (2.86 g, 12.7 mmol) in 1,4-dioxane (30 ml) was heated at 90° C. for 16 h. The reaction was cooled, filtered (washing the filter cake with a small quantity of diethyl ether) and the filtrate concentrated in vacuo. The residue was partitioned between diethyl ether (100 ml) and 1M sodium hydroxide (100 ml) and the organics discarded. The aqueous was washed with more diethyl ether and then cooled in an ice-water bath. The pH was adjusted to approximately 6 with 36% hydrochloric acid, and allowed to stand for 1 h. The resulting solid was collected by filtration and dried under vacuum to afford 2,4-difluoro-3-(pyridin-3-yl)benzeneboronic acid (2.2 g, 85%) as a grey solid: m/z (ES+) 236 (M++H).

reactant | 3-(3-bromo-2,6-difluorophenyl)pyridine | 11 mmol, 2.97 g | BrC=1C(=C(C(=CC1)F)C=1C=NC=CC1)F | C11H6BrF2N
reactant | potassium acetate | 22 mmol, 2.16 g | C(C)(=O)[O-].[K+]
reactant | bis(neopentyl glycolato)diboron | 12.7 mmol, 2.86 g | B1(OCC(CO1)(C)C)B2OCC(CO2)(C)C | C10H20B2O4
solvent | 1,4-dioxane | 30 ml | O1CCOCC1 | C4H8O2
product | 2,4-difluoro-3-(pyridin-3-yl)benzeneboronic acid | 2.2 g, 85% | FC1=C(C=CC(=C1C=1C=NC=CC1)F)B(O)O | C11H8BF2NO2
